US08808703B2
Step 5: diethyl 4-((R)-2-amino-3-((R)-2,3-bis(dodecanoyloxy)propylthio)propanamido)-1,1-difluorobutylphosphonate
To a solution of diethyl (4-((R)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-((R)-2,3-bis(dodecanoyloxy)propylthio)propanamido)-1,1-difluorobutylphosphonate (1 eq) was added 20% piperidine (50 eq) in acetonitrile. The resulting mixture was stirred at 25° C. until the deprotection completed. To the mixture was added toluene and then concentrated en vaccuo. The crude mixture was purified by flash chromatography on a COMBIFLASH® system (ISCO) using 100% EtOAc then 0-10% MeOH/DCM to give the product as a colorless oil.

reactant | 4-((R)-2-(((9H-fluoren-9-yl)methoxy)carbonylamino)-3-((R)-2,3-bis(dodecanoyloxy)propylthio)propanamido)-1,1-difluorobutylphosphonate | 1 eq | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)N[C@H](C(=O)NCCCC(F)(F)P([O-])([O-])=O)CSC[C@@H](COC(CCCCCCCCCCC)=O)OC(CCCCCCCCCCC)=O
reactant | piperidine | 50 eq | N1CCCCC1 | C5H11N
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | acetonitrile | C(C)#N | C2H3N
product | diethyl 4-((R)-2-amino-3-((R)-2,3-bis(dodecanoyloxy)propylthio)propanamido)-1,1-difluorobutylphosphonate | N[C@H](C(=O)NCCCC(F)(F)P(OCC)(OCC)=O)CSC[C@@H](COC(CCCCCCCCCCC)=O)OC(CCCCCCCCCCC)=O | C38H73F2N2O8PS
